* C:\Users\Pierre-Anthony\Documents\GitHub\Chorus_CH32\Simulation\Butterworth_input_filter_v3.asc
V1 9V 0 9
V2 N012 0 SINE(0 1.2 1000) AC 2
R1 N014 N002 22k
R2 N015 N014 47k
C1 N005 N014 1n
C2 0 N015 100p
R3 N010 N005 22k
R4 N011 N010 47k
C3 N004 N010 1n
C4 0 N011 160p
C6 N013 N012 100n
R7 ref N013 1Meg
R8 NC_01 NC_02 8.2k
R9 NC_03 NC_04 2.7k
XU1 N013 N002 9V 0 N002 TL072
XU2 N015 N005 9V 0 N005 TL072
XU3 N011 N004 9V 0 N004 TL072
R5 N008 N004 22k
R10 N009 N008 47k
C5 N003 N008 1n
C7 0 N009 470p
XU4 N009 N003 9V 0 N003 TL072
C8 NC_05 NC_06 400p
R11 N006 N003 1k
R12 NC_07 NC_08 8.2k
C9 N002 N002 100p
R6 ref 9V 36k
R13 2V5 ref 10k
R14 2V5 0 15k
C10 N001 0 22n
C11 ref 0 47µ
C12 9V 0 47µ
C13 N007 N006 100n
R15 N007 2V5 15k
* .ac dec 10 1 100000K
* OG value 23k1 48k3
* OG value 23k1 48k3
.tran 10ms
* OG value 23k1 48k3
.lib TL072.sub
.backanno
.end
